US07186729B2
Step 3: 4-(4-Chloro-phenyl)-piperazine-1,3-dicarboxylic acid1-tert-butyl ester 3-methyl ester
4-Chloro phenyl boronic acid (2.0 equiv, 3.68 mmol) and piperazine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (1.0 equiv, 1.84 mmol) were dissolved in dichloromethane followed by the addition of copper acetate (1.0 equiv), 4 Å molecular sieves and pyridine (2.0 equiv). The reaction mixture was stirred at room temperature for 72 h. The reaction mixture was concentrated in vacuo, dissolved in ethyl acetate, filtered through celite and concentrated. The crude product was purified using gradient elution from hexane/ethyl acetate (5%) to hexane/ethyl acetate (20%). ESI-MS m/z: 354 (M+1), UV retention time: 2.88 min. Reference: Tetrahedron Letters, 2001, 42, 3415–3418.

reactant | 4-Chloro phenyl boronic acid | 3.68 mmol, 2.0 equiv | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | piperazine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 1.84 mmol, 1.0 equiv | COC(=O)C1N(CCNC1)C(=O)OC(C)(C)C | C11H20N2O4
reactant | pyridine | 2.0 equiv | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper acetate | 1.0 equiv | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-(4-Chloro-phenyl)-piperazine-1,3-dicarboxylic acid1-tert-butyl ester 3-methyl ester | COC(=O)C1CN(CCN1C1=CC=C(C=C1)Cl)C(=O)OC(C)(C)C | C17H23ClN2O4
